US04621089
Ethyl 7-Amylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate (E4)
The above compound was prepared from ethyl 7-chloro-1H-pyrazolo[4,3-b]pyridine-6-carboxylate and n-amylamine in an analogous manner to the preparation of Example 2 giving a pale yellow solid, m.p. 153°-155° C.

reactant | ethyl 7-chloro-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | ClC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C9H8ClN3O2
reactant | n-amylamine | CCCCCN | C5H13N
product | Ethyl 7-Amylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | C(CCCC)NC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C14H20N4O2
